US07425568B2
N-Acetyl-2-(2-Penylchroman-6-yloxy)-aniline
2-(2-Penylchroman-6-yloxy)-aniline (0.093 g) was dissolved in 1 ml of dry pyridine under nitrogen. DMAP (10 mol-%) and acetic acid anhydride (0.1 ml) were added and the solution was stirred for 4 hours at room temperature followed with quenching with 0.5 ml of H2O. The solution was evaporated to dryness and toluene was added and evaporated again. Toluene evaporation was repeated. Product was purified by column chromatography (CH2Cl2:i-PrOH/98:2 as the eluant) and recrystallized from 0.5 ml of heated absolute ethanol by cooling and adding 0.5 ml of 1H-NMR (400 MHz; d6-DMSO): δ 9.43 (s, 1H), 7.96 (m, 1H), 7.48-7.30 (m, 5H), 7.08-6.99 (m, 2H), 6.89-6.74 (m, 4H), 5.10 (dd, 1H, J=9.9, J=2.0), 3.03-2.88 (m, 1H), 2.76-2.65 (m, 1H), 2.21-2.11 (m, 1H), 2.10-1.91 (m, 1H), 2.06 (s, 3H).

reactant | 2-(2-Penylchroman-6-yloxy)-aniline | 0.093 g | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(N)C=CC=C1 | C21H19NO2
reactant | acetic acid anhydride | 0.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 10 mol | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Acetyl-2-(2-Penylchroman-6-yloxy)-aniline | C(C)(=O)NC1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C23H21NO3
